US08487108B2
tert-butyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(4-(methylamino)-4-oxobutoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate (50 mg, 0.08 mmol) was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (10 mL). The reaction mixture was stirred at rt for 1 h, a solution of saturated sodium bicarbonate was added dropwise to adjust pH=7-8. The resulting mixture was extracted with CH2Cl2 (3×15 mL), washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by preparative HPLC to afford (R)-3-((R)-(3-chlorophenyl)(4-(methylamino)-4-oxobutoxy)methyl)-N—((S)-1-cyclohexyl-3-(methylamino)propan-2-yl)piperidine-1-carboxamide (3.30 mg, yield 8%). 1H NMR (CD3OD, 400 MHz) δ 7.30-7.34 (m, 3H), 7.20 (d, 1H), 4.30 (d, 1H), 4.05 (m, 1H), 3.97 (m, 2H), 2.76 (m, 3H), 2.69 (s, 3H), 2.53 (s, 3H), 2.27 (m, 3H), 1.83 (m, 3H), 1.71 (m, 5H), 1.13-1.28 (m, 10H), 0.89 (m, 4H).

reactant | tert-butyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(4-(methylamino)-4-oxobutoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate | 0.08 mmol, 50 mg | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1)OCCCC(=O)NC | C33H53ClN4O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | TFA CH2Cl2 | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (R)-3-((R)-(3-chlorophenyl)(4-(methylamino)-4-oxobutoxy)methyl)-N—((S)-1-cyclohexyl-3-(methylamino)propan-2-yl)piperidine-1-carboxamide | 3.30 mg, yield 8% | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)N[C@@H](CC1CCCCC1)CNC)OCCCC(=O)NC | C28H45ClN4O3
